US05801201
(cyclopentylethyltriphenylphosphonium) bromide (53)
17.7 g (100 mmole) (2-bromoethyl)-cyclopentane, 32.5 g (124 mmole) triphenylphosphine and 100 ml toluene were boiled for 56 hours under reflux. The mixture was stirred overnight at room temperature. The crystals formed were filtered off by suction, washed with ether and dried under vacuum. The yield of compound (53) was 35.6 g (82% theoretical).

reactant | (2-bromoethyl)-cyclopentane | 100 mmole, 17.7 g | BrCCC1CCCC1 | C7H13Br
reactant | triphenylphosphine | 124 mmole, 32.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | (cyclopentylethyltriphenylphosphonium) bromide | [Br-].C1(CCCC1)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C25H28P.BrH/c1-4-14-23(15-5-1)26(24-16-6-2-7-17-24,25-18-8-3-9-19-25)21-20-22-12-10-11-13-22;/h1-9,14-19,22H,10-13,20-21H2;1H/q+1;/p-1
